US09079902B2
A solution of 1-methyl-1H-indole-6-sulfonyl chloride (8.764 g, 38.2 mmol) in DCM (190 ml) was treated with n-bromosuccinimide (7.47 g, 42.0 mmol). The resulting mixture was stirred in the dark for 2.5 h, then filtered through a silica gel pad. The filter pad was washed with DCM (2×), and the filtrates were combined. The combined solution was concentrated to give 3-bromo-1-methyl-1H-indole-6-sulfonyl chloride (11.562 g, 37.5 mmol, 98% yield) as an orange solid. 1H NMR (400 MHz, CDCl3) δ=8.08 (dd, J=0.4, 1.7 Hz, 1 H), 7.87-7.80 (m, 1 H), 7.79-7.70 (m, 1 H), 7.42 (s, 1 H), 3.93 (s, 3 H).

reactant | 1-methyl-1H-indole-6-sulfonyl chloride | 38.2 mmol, 8.764 g | CN1C=CC2=CC=C(C=C12)S(=O)(=O)Cl | C9H8ClNO2S
reactant | n-bromosuccinimide | 42.0 mmol, 7.47 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 190 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-1-methyl-1H-indole-6-sulfonyl chloride | 37.5 mmol, 11.562 g, 98% yield | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)Cl)C | C9H7BrClNO2S
